US07279487B2
Step 5: Preparation methyl 3-({2-[(dimethylamino)sulfonyl]ethyl}amino)-pyridine-2-carboxylate
2-[(2-cyanopyridin-3-yl)amino]-N,N-dimethylethanesulfonamide (1.4 g, 5.5 mmol) was dissolved in 50 mL MeOH and placed in a 100 mL pressure flask. The solution was cooled to −78° C. and HCl gas was bubbled through the solution until the volume of the solution had noticeably increased. The flask was sealed and the reaction warmed to room temperature and stirred for 4 hours. At this time, LCMS (sampled after re-cooling the reaction to −78° C.) showed only a small amount of starting cyano compound remaining. Water (1 mL, 55 mmol) was added and the reaction transferred to a flask equipped with a reflux condenser. The reaction was refluxed for 1.5 hours, stirred at room temperature overnight, then refluxed for 2 more hours, then stirred at room temperature for 48 hours. The solution was evaporated to dryness to give a green/yellow foam that was then partitioned between CHCl3 and saturated NaHCO3. The layers were separated and the aqueous was extracted circa 10 times or until very little UV-active material was removed. The organic layers were dried over Na2SO4, filtered and evaporated to give the product as a clear oil that solidified upon standing.

reactant | 2-[(2-cyanopyridin-3-yl)amino]-N,N-dimethylethanesulfonamide | 5.5 mmol, 1.4 g | C(#N)C1=NC=CC=C1NCCS(=O)(=O)N(C)C | C10H14N4O2S
reactant | Water | 55 mmol, 1 mL | O | H2O
reactant | MeOH | 50 mL | CO | CH4O
product | methyl 3-({2-[(dimethylamino)sulfonyl]ethyl}amino)-pyridine-2-carboxylate | CN(S(=O)(=O)CCNC=1C(=NC=CC1)C(=O)OC)C | C11H17N3O4S
